US09029560B2
Preparation of (E)-ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate (C17)
To an oven-dried 2 L three-necked round bottomed flask equipped with a stirring bar was added sodium hydride (60% oil immersion, 7.20 g, 180 mmol) as a solid that was pre-weighed into a 25-mL vial. This was diluted with anhydrous tetrahydrofuran (1 L) under nitrogen, and the solution was stirred in an ice bath. Ethyl 2-(diethoxyphosphoryl)acetate (30.0 mL, 151 mmol) was added dropwise in portions over 20 minutes, and the reaction was stirred at 0° C. for an additional 2 hours. 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde (50.0. g, 150 mmol) was added in solid portions over 20 minutes, and the reaction turned orange. After stirring for 30 minutes, the ice bath was removed and the reaction was warmed to room temperature over 1 hour. The reaction was quenched with slow addition of saturated aqueous ammonium chloride (500 mL) and allowed to stand at room temperature overnight. The biphasic reaction mixture was diluted with water and extracted with 1:1 ethyl acetate/hexanes (3×). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated to afford the title compound as an orange solid (61.4 g, 100%): mp 135-137° C.; 1H NMR (400 MHz, CDCl3) δ 8.59 (s, 1H), 8.22 (d, J=8.4 Hz, 2H), 7.85-7.77 (m, 2H), 7.73 (d, J=16.0 Hz, 1H), 7.64 (d, J=8.3 Hz, 2H), 7.40 (d, J=8.3 Hz, 2H), 6.51 (d, J=16.0 Hz, 1H), 4.29 (q, J=7.1 Hz, 2H), 1.35 (t, J=7.1 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.02; ESIMS m/z 404 ([M+H]+).

reactant | sodium hydride | 180 mmol, 7.20 g | [H-].[Na+]
reactant | Ethyl 2-(diethoxyphosphoryl)acetate | 151 mmol, 30.0 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzaldehyde | 150 mmol | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=O)C=C1)(F)F | C16H10F3N3O2
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (E)-ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)acrylate | 61.4 g, 100% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)/C=C/C(=O)OCC)(F)F | C20H16F3N3O3
